US09034879B2
Int. G: 3-Amino-5,6-bis(trifluoromethyl)pyrazine-2-carbohydrazide
A suspension of ethyl 3-amino-5,6-bis(trifluoromethyl)pyrazine-2-carboxylate (Int. G1)(455 mg, 1.501 mmol) in MeOH (10 ml) was treated with hydrazine monohydrate (0.147 ml, 3.00 mmol) and stirred at RT overnight. The reaction mixture was diluted with water (50 ml) and the pH was adjusted to pH4-5 using 1M HCl. A yellow precipitate formed which was filtered under vacuum, washed with water and air dried to afford the title compound which was used without further purification;

reactant | ethyl 3-amino-5,6-bis(trifluoromethyl)pyrazine-2-carboxylate | 1.501 mmol, 455 mg | NC=1C(=NC(=C(N1)C(F)(F)F)C(F)(F)F)C(=O)OCC | C9H7F6N3O2
reactant | hydrazine monohydrate | 3.00 mmol, 0.147 ml | O.NN
reactant | HCl | 1M | Cl | ClH
solvent | MeOH | 10 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 3-Amino-5,6-bis(trifluoromethyl)pyrazine-2-carbohydrazide | NC=1C(=NC(=C(N1)C(F)(F)F)C(F)(F)F)C(=O)NN | C7H5F6N5O
